US07285368B2
In a nitrogen atmosphere, a mixture of 108 g of 1,2-epoxycyclohexane, 95.1 g of methanesulfonamide, 11.2 g of t-butoxypotassium, and 1,000 g of tetrahydrofuran was heated under reflux for 100 hours. The reaction solution was neutralized with hydrochloric acid and then subjected to conventional aqueous work-up. Purification by column chromatography yielded an alcohol compound, 2-[(methylsulfonyl)amino]cyclohexanol. In a nitrogen atmosphere, the alcohol compound was combined with 111 g of triethylamine and 2,000 g of acetonitrile, to which 105 g of methacryloyl chloride was added dropwise at −20° C. The mixture was gradually warmed to room temperature and then stirred for 10 hours. The reaction mixture was subjected to conventional aqueous work-up and purified by column chromatography, obtaining 165 g of 2-[(methylsulfonyl)amino]-cyclohexyl methacrylate. The yield was 63% based on the methanesulfonamide.

reactant | 1,2-epoxycyclohexane | 108 g | O1C2C1CCCC2 | C6H10O
reactant | methanesulfonamide | 95.1 g | CS(=O)(=O)N | CH5NO2S
reactant | t-butoxypotassium | 11.2 g | C(C)(C)(C)O[K]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 1,000 g | O1CCCC1 | C4H8O
product | 2-[(methylsulfonyl)amino]cyclohexanol | CS(=O)(=O)NC1C(CCCC1)O | C7H15NO3S
